US04246263
Red-al [70% solution of sodium bis(2-methoxyethyl)aluminum hydride in benzene, 1.2 g., 1.1 ml., 5.86 mmoles] was cooled under nitrogen in an ice bath. A solution of ethyl 2-(4-pyridylmethylthio)propionate in 10 ml. of dry tetrahydrofuran was added dropwise over 10 minutes. The mixture was then heated and gently refluxed for 1 hour and then stirred at room temperature for approximately 16 hours. The reaction mixture was poured into 40 ml. of ice cold 1 N HCl and salts removed by filtration. The filtrate was made basic with sodium bicarbonate and the product extracted into ethyl acetate (four times with 50 ml. aliquots). The combined ethyl acetate extracts were dried (by wash with saturated sodium chloride and then over anhydrous sodium sulfate) and concentrated to yield 4-(1-hydroxy-2-propylthiomethyl)pyridine (oil; approximately 200 mg.; pnmr/CDCl3 /TMS/τ: 8.6 (d, 3H), 7.2 (s, broad, 1H), 6.3 (m, 5H), 2.7 (d, 2H), 1.5 (d, 2H); m/e calcd: 183; found: 183, 152, 118, 92, 65; ir (film): 3.1, 6.25, 7.1, 9.25, 12.25μ). To further purify the product, it was taken up in chloroform, treated with activated carbon and concentrated to an oil (194 mg.).

reactant | Red-al | 5.86 mmoles, 1.1 ml, 1.2 g | COCCO[AlH2-]OCCOC.[Na+]
reactant | ethyl 2-(4-pyridylmethylthio)propionate | N1=CC=C(C=C1)CSC(C(=O)OCC)C | C11H15NO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | oil | OC(C1=CC=NC=C1)SC(C)C | C9H13NOS
